US07230020B2
Reaction of 2,5-dichlorobenzoic acid (164 mg, 0.85 mmol) in thionyl chloride (2 mL) then with 2-thiopheneethylamine (50 μL, 0.42 mmol) in presence of triethylamine (0.5 mL) in THF (3 mL) according to method B gave 2,5-dichloro-N-(2-thiophen-2-yl-ethyl)-benzamide (83 mg, 0.28 mmol, 66% yield) as a off-white powder after purification on silica gel (eluent: EtOAc/hexane 5/95 to 20/80).

reactant | 2,5-dichlorobenzoic acid | 0.85 mmol, 164 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 2-thiopheneethylamine | 0.42 mmol, 50 μL | S1C(=CC=C1)CCN | C6H9NS
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2,5-dichloro-N-(2-thiophen-2-yl-ethyl)-benzamide | 0.28 mmol, 83 mg, 66% yield | ClC1=C(C(=O)NCCC=2SC=CC2)C=C(C=C1)Cl | C13H11Cl2NOS
